US07572809B2
g) Preparation of 6,7-Bis-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol
A mixture of 2-Cyanomethyl-4,5-bis-(2-methoxy-ethoxy)-benzoic acid (2 g, 6.47 mmol), 3-amino-5-methylpyrazol (1.26 g, 12.9 mmol) in acetic acid (10 ml) was sealed in microwave process vial (20 ml). The mixture was heated at 130° C. for 30 minutes under microwave irradiation. After removal of acetic acid, the residue was dissolved in 1 ml MeOH, and this solution was added dropwise to 20 ml water. After stirred for half an hour, solid was collected and dried to give product (2 g, 79.7%). LC-MS: m/e 389(MH+).

reactant | 2-Cyanomethyl-4,5-bis-(2-methoxy-ethoxy)-benzoic acid | 6.47 mmol, 2 g | C(#N)CC1=C(C(=O)O)C=C(C(=C1)OCCOC)OCCOC | C15H19NO6
reactant | 3-amino-5-methylpyrazol | 12.9 mmol, 1.26 g | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6,7-Bis-(2-methoxy-ethoxy)-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | 2 g, 79.7% | COCCOC=1C=C2C=C(N=C(C2=CC1OCCOC)O)NC1=NNC(=C1)C | C19H24N4O5
